US04158663
2-[(Methylsulfinyl)methyl]-4H-1-benzopyran-4-one.
A mixture of dimethyl sulfoxide (500 ml), benzene (375 ml) and sodium hydride (52 g of a 57% oil dispersion, 1.24 mole), was heated at 75° under nitrogen until all the solid dissolved giving a clear gray-green solution. The solution was cooled in an icebath and 4-methoxycoumarin (75 g, 0.425 mole) was added. The reaction mixture was stirred at room temperature for one hour and poured into excess anhydrous ether. Th ether was decanted from the insoluble salts, which were washed several times with fresh ether. The salts were dissolved in a minimum of cold water and acidified with ice-cold 5 N hydrochloric acid. The acidified solution was extracted with chloroform (5×40 ml). The extracts were combined, dried over Na2SO4, and evaporated at reduced pressure to give a solid product. Recrystallization from absolute ethanol gave white crystals (57.3 g, 61%), m.p. 142°-146°.

reactant | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
reactant | benzene | 375 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methoxycoumarin | 0.425 mole, 75 g | COC1=CC(OC2=CC=CC=C12)=O | C10H8O3
solvent | ether | CCOCC | C4H10O
product | 2-[(Methylsulfinyl)methyl]-4H-1-benzopyran-4-one | 57.3 g, 61% | CS(=O)CC=1OC2=C(C(C1)=O)C=CC=C2 | C11H10O3S
